US07420001B2
To 5-iodo-4-methoxy-3-methyl-benzofuran-2-carboxylic acid tert-butyl ester (490 mg, 1.26 mmol) was added 356 mg (3 mmol) of Zn(CN)2, 140 mg of Pd(PPh3)4 and 4 mL of DMF. The mixture was stirred at 90° C. for 3 h. After cooling to room temperature the reaction mixture was loaded onto a silica gel column and was purified by column chromatography to give 260 mg (72% yield) of desired 5-cyano-4-methoxy-3-methyl-benzofuran-2-carboxylic acid tert-butyl ester was obtained as a white solid.

reactant | 5-iodo-4-methoxy-3-methyl-benzofuran-2-carboxylic acid tert-butyl ester | 1.26 mmol, 490 mg | C(C)(C)(C)OC(=O)C=1OC2=C(C1C)C(=C(C=C2)I)OC | C15H17IO4
reactant | DMF | 4 mL | CN(C)C=O | C3H7NO
catalyst | Zn(CN)2 | 3 mmol, 356 mg | [C-]#N.[C-]#N.[Zn+2]
catalyst | Pd(PPh3)4 | 140 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-cyano-4-methoxy-3-methyl-benzofuran-2-carboxylic acid tert-butyl ester | 260 mg, 72% yield | C(C)(C)(C)OC(=O)C=1OC2=C(C1C)C(=C(C=C2)C#N)OC | C16H17NO4
